US08026260B2
Intermediate XVI: 4-{[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoic acid (Scheme 2)
A solution of tert-butyl 4-{[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoate (86 mg, 0.24 mmol) in methylene chloride (5 mL) was treated with trifluoroacetic acid (3.5 g) and stirred at ambient temperature for 30 minutes. The reaction was evaporated in vacuo to give the title compound as a white solid. 1H NMR (600 MHz, CDCl3) δ 8.09 (d, J=8.5 Hz, 2H), 7.81 (d, J=8.2 Hz, 11H), 7.54 (m, 1H), 7.48 (d, J=8.2 Hz, 2H), 7.06 (m, 2H), 4.41 (s, 2H), 3.93 (s, 3H); ESIMS calcd 311.1 (M++H), found 311.1 (M++H).

reactant | tert-butyl 4-{[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoate | 0.24 mmol, 86 mg | COC1=C(C=CC=C1)C1=NN=C(O1)CC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C21H22N2O4
reactant | trifluoroacetic acid | 3.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-{[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoic acid | COC1=C(C=CC=C1)C1=NN=C(O1)CC1=CC=C(C(=O)O)C=C1 | C17H14N2O4
